US04179563
A solution of 22 g of 3-(p-chlorophenoxy)pyridine N-oxide in 500 ml of chloroform is added dropwise to 77 g of refluxing phosphorous oxychloride. The mixture is refluxed 30 minutes, cooled and concentrated at reduced pressure. The resulting oil is dissolved in 400 ml of dichloromethane, washed with 40 ml ice cold concentrated ammonium hydroxide and the dichloromethane solution is dried over anhydrous MgSO4. The mixture is filtered, concentrated under reduced pressure and distilled to yield the mixture of desired chlorinated pyridines; bp 103°-105° C./0.1 mm. The oil is dissolved in 100 ml of toluene and chromatographed over 400 g of silica gel in toluene to yield in the first eluate, 6-chloro-3-(p-chlorophenoxy)pyridine. Continued elution with toluene yields 2-chloro 3-(p-chlorophenoxy)pyridine. Finally, elution with toluene-methanol (50:50) yields 4-chloro-3-(p-chlorophenoxy)pyridine.

reactant | 3-(p-chlorophenoxy)pyridine N-oxide | 22 g | ClC1=CC=C(OC=2C=[N+](C=CC2)[O-])C=C1 | C11H8ClNO2
reactant | phosphorous oxychloride | 77 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-3-(p-chlorophenoxy)pyridine | ClC1=CC=C(C=N1)OC1=CC=C(C=C1)Cl | C11H7Cl2NO
